US05969139
A solution of 1 g of 3-hydroxybenzaldehyde dimethyl acetal and 2 g of potassium tert.butoxide in 10 ml of anhydrous dimethylformamide was heated at 60° C. under an atmosphere of dry nitrogen for 1 hour. The mixture was then cooled to room temperature and 900 mg of 4-chloropyridinium hydrochloride were added portionwise over a period of 20 minutes. The mixture was then heated at 160° C. for 18 hours, cooled, 100 ml of water were added and the product was extracted with ethyl acetate. The combined extracts were washed with 1M aqueous sodium hydroxide solution and with brine, and then dried over anhydrous magnesium sulphate. Evaporation to dryness left a brown oil which was purified by column chromatography on silica gel using hexane/ethyl acetate (gradient: 90:10 to 20:80) for the elution to give 3-(4-pyridyloxy)-benzaldehyde dimethyl acetal as a light brown oil.

reactant | 3-hydroxybenzaldehyde dimethyl acetal | 1 g | COC(C1=CC(=CC=C1)O)OC | C9H12O3
reactant | potassium tert.butoxide | 2 g | CC(C)([O-])C.[K+]
reactant | 4-chloropyridinium hydrochloride | 900 mg | Cl.ClC1=CC=[NH+]C=C1
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-(4-pyridyloxy)-benzaldehyde dimethyl acetal | COC(C1=CC(=CC=C1)OC1=CC=NC=C1)OC | C14H15NO3
